2107-07-21 07:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2107-7-20**] 09:23 AM
   Allergies:
   Levaquin (Oral) (Levofloxacin)
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Sulfameth/Trimethoprim DS
   Tiotropium Bromide
   Vitamin D
   Zolpidem Tartrate
   Oxycodone-Acetaminophen
   Pantoprazole
   Pravastatin
   PredniSONE Albuterol 0.083% Neb Soln Alendronate Sodium
   Calcium Carbonate
   Fentanyl Patch
   Montelukast Sodium
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-7-21**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.6
C (97.9
   HR: 87 (81 - 110) bpm
   BP: 109/55(67) {93/21(47) - 124/82(89)} mmHg
   RR: 18 (14 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  3,600 mL
                  PO:
                                                                    600 mL
                  TF:
   IVF:
                                                                  1,000 mL
   Blood products:
   Total out:
                                                                    620 mL
                                                                    600 mL
   Urine:
                                                                    620 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,980 mL
                                                                   -600 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   General: Alert and Oriented. Pleasant. NAD.
   HEENT: Sclera anicteric, MMM, oropharynx clear.
   Neck: supple, JVP not elevated, no LAD. RIJ in place.
   Lungs: Decreased air exchange.  No wheezes or rhonchi.
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly. External rectal exam
   with skin tag at 6o'clock and fresh blood in perirectal area.
   Ext: Thin. Warm. No edema. Skin tear on dorsum of right hand.
   Labs / Radiology
   287 K/uL
   8.3 g/dL
   108 mg/dL
   0.6 mg/dL
   27 mEq/L
   4.5 mEq/L
   13 mg/dL
   109 mEq/L
   142 mEq/L
   27.6 %
   13.0 K/uL
        [image002.jpg]
                             [**2107-7-20**]  12:57 PM
                             [**2107-7-20**]  03:10 PM
                             [**2107-7-20**]  09:54 PM
                             [**2107-7-21**]  03:20 AM
   WBC
   15.5
   13.0
   Hct
   28.6
   29.6
   29.2
   27.6
   Plt
   312
   287
   Cr
   0.6
   Glucose
   108
   Other labs: Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   This is a 68 yo M with extensive Hx of hospitalization for COPD
   exacerbation as well as multiple lower GI bleeds admitted for
   hematochezia.
   .
   # Hematochezia: likely diverticular bleed given history of signficant
   diverticula.  He has had 1 prior hospitalization for a lower GI bleed
   in [**2-14**] for which only sources identified on scope were diverticula.
   Other potential etiologies include internal hemorrhoids.  Colonic mass
   is less likely given multiple prior scopes in past 9 years. Upper GI
   bleed less likely given absence of melena and clear NGL.  Is on chronic
   steroids so is at risk for gastritis. Given no prior source
   definitively identified previously, small bowel sources are also
   possible.
   -Has CVL in place as well as PIVs for recusitation
   -Q6 Hct today
   -IV PPI for now, given pt's steroid use should likely be on [**Hospital1 **] oral
   PPI at home.
   -Stool cx given crampy pain with bloody stool r/o infectious
   colitis/dysentery although less likely.
   -GI involvement appreciated. Discuss with them utility of repeat scope
   vs possible capsule study.
   -Hold aspirin given bleed
   -Consider outpatient vs inpatient surgical eval given presumed
   recurrent diverticular bleed for eval for partial colectomy.
   .
   # COPD. At baseline. Continue home dose steroids, tiotropium, prn
   albuterol nebs.  Continue calcium, vitamin D and alendronate.
   .
   # FEN: Maintenance IVF while NPO.  NPO until at least PM hct stable and
   GI c/s staffed.
   .
   .
   # Communication: Patient, Proxy name: [**First Name8 (NamePattern2) **] [**Known lastname **]
    Relationship: WIFE  Phone: [**Telephone/Fax (1) 9457**]
   .
   # Disposition: ICU today, may consider call out tomorrow if hct stable,
   no further bleeds.
   .
   ICU Care
   Nutrition: Clear liquids
   Glycemic Control:
   Lines:
   Multi Lumen - [**2107-7-20**] 09:23 AM
   18 Gauge - [**2107-7-20**] 09:24 AM
   Prophylaxis:
   DVT: SCD
   Stress ulcer: Pantoprazole IV BID
   VAP:  n/a
   Comments:
   Communication: Patient, Proxy name: [**First Name8 (NamePattern2) **] [**Known lastname **]  Relationship: WIFE
   Phone: [**Telephone/Fax (1) 9457**]
   Code status: Full code
   Disposition:  Call out after another stable Hct.

2107-07-22 06:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - STOP [**2107-7-21**] 08:19 PM
   - Pt had 16sec Vtach and chest "tightness" and SOB. When asked where,
   pointed more towards his neck. Started on nebs and got EKG, Cardiac
   enzymes and lytes. SOB and "tightness" quickly resolved. Felt not very
   likely to have an MI.  First set negative. IJ line D/C'd. Lytes normal.
   - CXR showed pneumothorax on L side (other side of line). Thoracic [**Doctor First Name 458**]
   called. Another CXR ordered about 5 hours later showed that it was
   resolved.
   Allergies:
   Levaquin (Oral) (Levofloxacin)
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Albuterol 0.083% Neb Soln 3. Alendronate Sodium 4. Calcium Carbonate 5.
   Fentanyl Patch 6.  7. Insulin 8. Montelukast Sodium 9. Omeprazole 10.
   Oxycodone-Acetaminophen 11. Pravastatin 12. PredniSONE 13. Sarna Lotion
   14. Sodium Chloride 0.9% Flush 15. Sulfameth/Trimethoprim DS 16.
   Tiotropium Bromide
   17. Vitamin D 18. Zolpidem Tartrate
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: no CP, no SOB, states pain in throat last night was
   after eating with food getting stuck and this is the second time that
   this has happened; +maroon stool per nursing staff
   Flowsheet Data as of  [**2107-7-22**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98
   HR: 81 (81 - 115) bpm
   BP: 98/51(62) {98/44(59) - 148/69(89)} mmHg
   RR: 18 (13 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,211 mL
                                                                    360 mL
   PO:
                                                                  1,020 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    191 mL
   Blood products:
   Total out:
                                                                  1,550 mL
                                                                    400 mL
   Urine:
                                                                  1,550 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -340 mL
                                                                    -40 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///34/
   Physical Examination
   Gen: NAD, resting comfortably
   CV: rrr nl s1/s2 no murmurs, distant sounds
   Pulm: CTA b/l with long expiratory phase, equal b/l
   Abd: +BS, soft, ND,  umbilical TTP deeply (mild tenderness)
   Ext: no edema
   Labs / Radiology
   250 K/uL
   7.4 g/dL
   84 mg/dL
   0.6 mg/dL
   34 mEq/L
   4.7 mEq/L
   17 mg/dL
   95 mEq/L
   134 mEq/L
   23.8 %
   12.6 K/uL
        [image002.jpg]
                             [**2107-7-20**]  12:57 PM
                             [**2107-7-20**]  03:10 PM
                             [**2107-7-20**]  09:54 PM
                             [**2107-7-21**]  03:20 AM
                             [**2107-7-21**]  05:29 PM
                             [**2107-7-21**]  06:49 PM
                             [**2107-7-22**]  01:54 AM
   WBC
   15.5
   13.0
   12.6
   Hct
   28.6
   29.6
   29.2
   27.6
   28.4
   23.8
   Plt
   [**Telephone/Fax (3) 9638**]
   Cr
   0.6
   0.8
   0.6
   TropT
   <0.01
   <0.01
   Glucose
   108
   229
   84
   Other labs: PT / PTT / INR:11.8/29.0/1.0, CK / CKMB /
   Troponin-T:130/6/<0.01, Ca++:8.9 mg/dL, Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   CXR X2 [**7-21**]
   Prelim on first:
   small left apical pneumothorax. no medistinal shift. right IJ unchanged
   in
   upper SVC. lungs hyperinflated, but unchanged. cardiomedistinal
   silhouette
   stable. discussed with dr. [**First Name8 (NamePattern2) **] [**Name (STitle) **]
   X2 [**7-22**]
   Assessment and Plan
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   This is a 68 yo M with extensive Hx of hospitalization for COPD
   exacerbation as well as multiple lower GI bleeds admitted for
   hematochezia.
   .
   # Hematochezia: likely diverticular bleed given history of signficant
   diverticula.  He has had 1 prior hospitalization for a lower GI bleed
   in [**2-14**] for which only sources identified on scope were diverticula.
   Other potential etiologies include internal hemorrhoids.  Colonic mass
   is less likely given multiple prior scopes in past 9 years. Upper GI
   bleed less likely given absence of melena and clear NGL.  Is on chronic
   steroids so is at risk for gastritis. Given no prior source
   definitively identified previously, small bowel sources are also
   possible.
   - Has PIV in place, please place second
   - continue Q12H Hcts
   - PPI switched to home PO dose.
   -GI involvement appreciated. Bleeding scan if rebleeds to determine
   possible resection site.
   - If hemodynamic instability or large bleed, call surgery and IR for
   urgent eval and angiography/coil vs surger
   -Hold aspirin given bleed
   -though Hct low today, repeat was higher and stable.  Will recheck this
   pm.  If <21, will transfuse.  If stable, will c/o.
   .
   # NSVT: enzymes and ekg WNL, continue to monitor on tele.
   [**Hospital 9641**] medical chart for history of VT
   -possibly due to spontaneous pneumothorax from ?bleb rupture but
   unclear if there was actually a pneumo since it was not apparent on f/u
   CXR; will contact radiology today
   .
   # COPD. At baseline. Continue home dose steroids, tiotropium, prn
   albuterol nebs.  Continue calcium, vitamin D and alendronate.
   .
   # FEN: regular diet.
   ICU Care
   Nutrition:
   Glycemic Control:  insulin s/s
   Lines:
   18 Gauge - [**2107-7-20**] 09:24 AM
   Prophylaxis:
   DVT:
   Stress ulcer: omeprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  c/o to floor today if stable Hct in pm